US08580794B2
(S)-tert-butyl 1-cyclopropylpyrrolidin-3-ylcarbamate
(S)-tert-butyl pyrrolidin-3-ylcarbamate (415 mg), (1-ethoxycyclopropoxy)trimethylsilane (1.8 mL) and molecular sieves (500 mg) were combined in methanol (4.5 mL). Acetic acid (1.3 mL) was added, followed by sodium cyanoborohydride (420 mg). The resulting mixture was heated to reflux for 4 hours. Insoluble material was filtered off and reaction was made basic to pH 14 with addition of 6M aqueous NaOH solution. The solution was extracted three times with diethyl ether, and the combined extracts were dried over MgSO4, filtered and concentrated to obtain an oil, which was purified by flash chromatography, eluting first with 100% dichloromethane, followed by 5% methanol/dichloromethane and 10% methanol/dichloromethane.

reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 415 mg | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 1.8 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 420 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | 6M | [OH-].[Na+]
solvent | methanol | 4.5 mL | CO | CH4O
solvent | Acetic acid | 1.3 mL | C(C)(=O)O | C2H4O2
product | (S)-tert-butyl 1-cyclopropylpyrrolidin-3-ylcarbamate | C1(CC1)N1C[C@H](CC1)NC(OC(C)(C)C)=O | C12H22N2O2
